US08022093B2
Pure 3′-{N′-[1-(3,4-Dimethylphenyl)-3-methyl-5-oxo-1,5-dihydro-pyrazol-4-ylidene]hydrazino}-2′-hydroxybiphenyl-3-carboxylic acid (Eltrombopag) (20 g, 0.045 mol) was suspended in a mixture of MeOH/THF=1/1 (400 mL). The suspension was heated to reflux and sulfuric acid (5 mL) was added drop wise. The reaction mixture was refluxed overnight, cooled to room temperature and evaporated to obtain an oily residue. Water (200 ml) was added to the and a thick suspension was formed. EtOAc (200 ml) was added to form a 2-phase system and the layers were separated. The organic layer was left for half an hour at room temperature resulting in formation of orange crystals. The crystals were filtered, washed with 2×20 mL EtOAc and dried in a vacuum oven at 35° C./0 bar for 2 hours, giving 17.17 g of (Z)-methyl 3′-(2-(1-(3,4-dimethylphenyl)-3-methyl-5-oxo-1H-pyrazol-4(5H)-ylidene)hydrazinyl)-2′-hydroxybiphenyl-3-carboxylate (Yield: 83.3%); (HPLC: >95%)

reactant | 3′-{N′-[1-(3,4-Dimethylphenyl)-3-methyl-5-oxo-1,5-dihydro-pyrazol-4-ylidene]hydrazino}-2′-hydroxybiphenyl-3-carboxylic acid | 0.045 mol, 20 g | CC=1C=C(C=CC1C)N1N=C(C(C1=O)=NNC=1C(=C(C=CC1)C1=CC(=CC=C1)C(=O)O)O)C | C25H22N4O4
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | Water | 200 ml | O | H2O
reactant | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
solvent | MeOH THF | CO.C1CCOC1
product | (Z)-methyl 3′-(2-(1-(3,4-dimethylphenyl)-3-methyl-5-oxo-1H-pyrazol-4(5H)-ylidene)hydrazinyl)-2′-hydroxybiphenyl-3-carboxylate | 17.17 g, Yield: 83.3% | CC=1C=C(C=CC1C)N1N=C(/C(/C1=O)=N/NC=1C(=C(C=CC1)C1=CC(=CC=C1)C(=O)OC)O)C | C26H24N4O4
